US09403833B2
Step 5: 1-(4-Chloro-2-cyclopropylphenyl)-5-methyl-1H-1,2,3-triazole-4-carboxylic acid
To a stirred solution of 1-azido-4-chloro-2-cyclopropylbenzene (204 mg, 1.054 mmol) and methyl 3-oxobutanoate (0.341 ml, 3.16 mmol) in MeOH (2 ml) was added sodium methoxide (5M in MeOH) (1.264 ml, 6.32 mmol) dropwise and the mixture was stirred at RT for 2.5 h. The mixture was heated at 50° C. for 5 hrs and then left to stir at RT for 16 hrs. The resulting mixture was diluted with water, extracted with diethylether (×2) and the organic extracts were discarded. To the aqueous layer was added 6M HCl (aq) until acidic and this was extracted with diethyl ether. The organic extracts were dried over MgSO4, filtered and concentrated under reduced pressure to yield the title compound as an orange oil.

reactant | 1-azido-4-chloro-2-cyclopropylbenzene | 1.054 mmol, 204 mg | N(=[N+]=[N-])C1=C(C=C(C=C1)Cl)C1CC1 | C9H8ClN3
reactant | methyl 3-oxobutanoate | 3.16 mmol, 0.341 ml | O=C(CC(=O)OC)C | C5H8O3
reactant | sodium methoxide | 6.32 mmol, 5M, 1.264 ml | C[O-].[Na+]
solvent | MeOH | 2 ml | CO | CH4O
solvent | water | O | H2O
product | 1-(4-Chloro-2-cyclopropylphenyl)-5-methyl-1H-1,2,3-triazole-4-carboxylic acid | ClC1=CC(=C(C=C1)N1N=NC(=C1C)C(=O)O)C1CC1 | C13H12ClN3O2
